US09353104B2
Under argon, to a solution of 4,5-dimethylthiazole (0.62 g, 5.5 mmol) in anhydrous THF (40 mL) at −78° C., n-butyllithium (2.3 M in hexanes, 3.6 mL, 8.28 mmol) was slowly added and the reaction mixture was stirred at −78° C. for 1 h. Then a solution of anhydrous DMF (1.1 mL, 14.2 mmol) in anhydrous THF (10 mL) was added. The resulting mixture was stirred for 2.5 hours, allowing the temperature to raise to −60° C. Acetic acid (0.5 mL) and an aqueous solution of ammonium chloride were added, and warmed to room temperature. The resulting solution was extracted with diethyl ether and ethyl acetate. The combined organic phase were dried over sodium sulfate, filtered and evaporated. The crude product was purified by flash chromatography (silica gel, PE/EA, 1/0 to 7/3) to afford 4,5-dimethyl-1,3-thiazole-2-carbaldehyde, as a yellow oil which turns into a white solid after storage at −18° C. LCMS m/z (M+H) 142.1 found, 142.1 required.

reactant | 4,5-dimethylthiazole | 5.5 mmol, 0.62 g | CC=1N=CSC1C | C5H7NS
reactant | n-butyllithium | 8.28 mmol, 2.3 M, 3.6 mL | C(CCC)[Li]
reactant | DMF | 14.2 mmol, 1.1 mL | CN(C)C=O | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | 4,5-dimethyl-1,3-thiazole-2-carbaldehyde | CC=1N=C(SC1C)C=O | C6H7NOS
